US04217453
A mixture of benzyl 6-azido-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (0.1 mmol), N-methylpiperazine (0.11 mmol), triethylamine (1 mmol) and anhydrous dimethylformamide (1 ml) is allowed to stand at room temperature overnight. The mixture is diluted with ethylacetate, washed thoroughly with water and brine, dried over magnesium sulfate, and filtered. Evaporation of the solvent under vacuum provides benzyl 6-azido-3-(N-methylpiperazinyl)1-azabicyclo[3.2.0]-hept-2-en-7-one-2-carboxylate.

reactant | benzyl 6-azido-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 0.1 mmol | N(=[N+]=[N-])C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)OS(=O)(=O)C=1C(=CC=CC1)C | C21H18N4O6S
reactant | N-methylpiperazine | 0.11 mmol | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 1 mmol | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | benzyl 6-azido-3-(N-methylpiperazinyl)1-azabicyclo[3.2.0]-hept-2-en-7-one-2-carboxylate | N(=[N+]=[N-])C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)C1N(CCNC1)C | C19H22N6O3
